US07563910B2
Preparation of 2-methyl-1-[(S)-1-(tetrahydro-furan-2-yl)methyl]-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid methyl ester
To a solution of 250 mg of 3-oxo-2-[2-oxo-2-(2-trifluoromethoxy-phenyl)-ethyl]-butyric acid methyl ester in methanol was added 84 μl of (S)-tetrahydrofurfurylamine and 5 mg of p-toluene sulfonic acid. The reaction mixture was then heated at reflux for 24 hours. After such time the reaction mixture was allowed to cool to room temperature before being concentrated in vacuo and purified by column chromatography to give 171 mg of the title compound; MS (EI) 383.1 (M)+.

reactant | 3-oxo-2-[2-oxo-2-(2-trifluoromethoxy-phenyl)-ethyl]-butyric acid methyl ester | 250 mg | COC(C(C(C)=O)CC(C1=C(C=CC=C1)OC(F)(F)F)=O)=O | C14H13F3O5
reactant | (S)-tetrahydrofurfurylamine | 84 μl | C([C@@H]1CCCO1)N | C5H11NO
reactant | p-toluene sulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | CO | CH4O
product | 2-methyl-1-[(S)-1-(tetrahydro-furan-2-yl)methyl]-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid methyl ester | 171 mg | COC(=O)C1=C(N(C(=C1)C1=C(C=CC=C1)OC(F)(F)F)C[C@H]1OCCC1)C | C19H20F3NO4
